US06194406B1
Combine 2-methylthio-5-nitrobenzoic acid, (3.2 g, 15 mmol), N,N-diisopropylethylamine (17.0 mL, 100 mmol), and methyl iodide (12.45 mL, 200 mmol) in acetonitrile (50 mL). After 18 hours, dilute the reaction mixture with ethyl acetate, extract with brine, dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 20% ethyl acetate/hexane to give methyl 2-methylthio-5-nitrobenzoate. Rf=0.58 (silica gel, 30% ethyl acetate/hexane).

reactant | 2-methylthio-5-nitrobenzoic acid | 15 mmol, 3.2 g | CSC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C8H7NO4S
reactant | N,N-diisopropylethylamine | 100 mmol, 17.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl iodide | 200 mmol, 12.45 mL | CI | CH3I
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-methylthio-5-nitrobenzoate | CSC1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C9H9NO4S
